US08202856B2
Step 1: Methyl 1-(2-fluorophenyl)-5-(morpholin-4-ylmethyl)-1H-1,2,3-triazole-4-carboxylate
A solution of 1-azido-2-fluorobenzene, prepared according to Platz, M. S. et al. J. Org. Chem. 1989, 54, 5938-5945 (500 mg; 3.65 mmol; 1 eq.) and methyl 4-chloroacetoacetate (823 mg; 5.47 mmol; 1.5 eq.) in morpholine (10 ml) was stirred at 50° C. overnight. The reaction mixture was evaporated. Water was added (20 mL) and was extracted with EtOAc (2×20 mL). Combined organic phases were extracted with 3 portions of HCl 1 N. Combined aqueous phases were made alkaline with NaOH 5N and were extracted with EtOAc (3×20 mL). Organic layers were dried over magnesium sulfate and evaporated, affording the title product as a dark red oil. It was used in the next step without further purification. HPLC (Method A) Rt 1.81 min. (Purity: 82.5%).

reactant | 1-azido-2-fluorobenzene | N(=[N+]=[N-])C1=C(C=CC=C1)F | C6H4FN3
reactant | methyl 4-chloroacetoacetate | 5.47 mmol, 823 mg, 1.5 eq. | ClCC(CC(=O)OC)=O | C5H7ClO3
reactant | morpholine | 10 ml | N1CCOCC1 | C4H9NO
product | Methyl 1-(2-fluorophenyl)-5-(morpholin-4-ylmethyl)-1H-1,2,3-triazole-4-carboxylate | FC1=C(C=CC=C1)N1N=NC(=C1CN1CCOCC1)C(=O)OC | C15H17FN4O3
